US08076332B2
2-Aminophenylcarbamic acid t-butyl ester (Reference Compound No. 1-1)
A solution of di-t-butyl dicarbonate (44 g, 200 mmol) in THF (50 mL) was added dropwise to a solution of o-phenylenediamine (22 g, 200 mmol) and triethylamine (30 mL) in THF (150 mL), and then the mixture was stirred at room temperature for 15 hours. The reaction mixture was concentrated, the obtained solid was filtered with ethyl acetate, and then the solid was dried under reduced pressure to give 21 g of the title reference compound as a white solid. Additionally, another solid which was obtained by concentration of the filtrate was collected by filtration with ethyl acetate, and the solid was dried under reduced pressure to give 11 g of the title reference compound as a white solid. (Yield 76%)

reactant | di-t-butyl dicarbonate | 200 mmol, 44 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | o-phenylenediamine | 200 mmol, 22 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | triethylamine | 30 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-Aminophenylcarbamic acid t-butyl ester | Yield 76% | C(C)(C)(C)OC(NC1=C(C=CC=C1)N)=O | C11H16N2O2
